US06727256B1
N-{3-fluoro-4-[(3fluorobenzyl)oxy]phenyl}-6-[5-({[2-(methanesulphonyl)ethyl]amino}methyl)-2-furyl]-4-quinazolinamine
Prepared according to Procedure D from 5-(4-{3-fluoro-4-(3-fluorobenzyloxy)anilino}-6-quinazolinyl)-furan-2-carbaldehyde (0.6 equiv) and 2-methanesulphonyl-ethylamine (1 equiv). 1H NMR 400 MHz (DMSO-d6) 9.61 (bs, 2H); 9.28 (bs, 1H); 8.80 (s, 1H); 8.34 (d, 1H); 7.87 (m, 2H); 7.59 (d, 1H); 7.44 (m, 1H); 7.2-7.36 (m, 4H); 7.18 (m, 1H); 6.83 (s, 1H); 5.25 (s, 2H); 4.42 (s, 2H); 3.60 (m, 2H); 3.45 (m, 2H), obscured by water peak); 3.16 (s, 3H); MS m/z 565 (M+1).

reactant | 5-(4-{3-fluoro-4-(3-fluorobenzyloxy)anilino}-6-quinazolinyl)-furan-2-carbaldehyde | 0.6 equiv | FC=1C=C(NC2=NC=NC3=CC=C(C=C23)C2=CC=C(O2)C=O)C=CC1OCC1=CC(=CC=C1)F | C26H17F2N3O3
reactant | 2-methanesulphonyl-ethylamine | 1 equiv | CS(=O)(=O)CCN | C3H9NO2S
solvent | water | O | H2O
product | N-{3-fluoro-4-[(3fluorobenzyl)oxy]phenyl}-6-[5-({[2-(methanesulphonyl)ethyl]amino}methyl)-2-furyl]-4-quinazolinamine | FC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC1=NC=NC2=CC=C(C=C12)C=1OC(=CC1)CNCCS(=O)(=O)C | C29H26F2N4O4S
